US07067517B2
5-(3,5-Dichloro-pyridin-2-yloxy)-pyridin-2-ol
A mixture of 5-(3,5-dichloro-pyridin-2-yloxy)-2-methoxy-pyridine (2.39 g, 8.82 mmol) and pyridine hydrochloride (7.00 g, 60.6 mmol) was heated in a kugelrohr apparatus at 200° C. for 25 minutes. After cooling to room temperature dichloromethane and water were added. The solid material, which was insoluble in dichloromethane and water, was isolated by suction and dried in a vacuum oven at 45° C., yielding the title compound, which was used without further purification.

reactant | 5-(3,5-dichloro-pyridin-2-yloxy)-2-methoxy-pyridine | 8.82 mmol, 2.39 g | ClC=1C(=NC=C(C1)Cl)OC=1C=CC(=NC1)OC | C11H8Cl2N2O2
reactant | pyridine hydrochloride | 60.6 mmol, 7.00 g | Cl.N1=CC=CC=C1
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 5-(3,5-Dichloro-pyridin-2-yloxy)-pyridin-2-ol | ClC=1C(=NC=C(C1)Cl)OC=1C=CC(=NC1)O | C10H6Cl2N2O2
